US20010053785A1
Bromine (1.47 mL, 28.69 mmol) in acetic acid (50 mL) was added dropwise over a 30 minutes period into a cold (5° C.) mixture of 4′-(2-benzyl-benzo[b]thiophen-3-yl)-biphenyl-4-ol (7.5 g, 19.13 mmol), potassium acetate (18.6 g, 190.13 mmol), and acetic acid (200 mL). After the addition the mixture was poured into water, and extracted with ethyl ether. The organic extracts were washed with aqueous sodium bisulfite and dried over MgSO4. Evaporation and purification by flash chromatography on silica gel (hexanes/EtAOc/CH2Cl2 3:1:1) gave 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3-bromo-biphenyl-4-ol as a light yellow solid (2.4 g): mp 54-56° C. MS m/e 477 (M+);

reactant | Bromine | 28.69 mmol, 1.47 mL | BrBr | Br2
reactant | 4′-(2-benzyl-benzo[b]thiophen-3-yl)-biphenyl-4-ol | 19.13 mmol, 7.5 g | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC=C(C=C2)O | C27H20OS
reactant | potassium acetate | 190.13 mmol, 18.6 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3-bromo-biphenyl-4-ol | 2.4 g | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C=C2)O)Br | C27H19BrOS
